### PR TITLE
[Merged by Bors] - feat: lemmas towards showing gaussNorm on MvPowerSeries is an absolute value

### PR DESCRIPTION
**Pull request by WilliamCoram**
We prove lemmas: ``gaussNorm_mul_le`` and ``gaussNorm_le_mul`` which will allow us to show it is an absolute value on Mv restricted power series.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 1]
```diff
@@ -120,4 +124,137 @@ lemma gaussNorm_add_le_max (f g : MvPowerSeries σ R) (hc : 0 ≤ c)
     left
     exact gaussNorm_nonneg v c f vNonneg
 
+private lemma foo (hc : 0 ≤ c) (t : σ →₀ ℕ) : 0 ≤ t.prod (c · ^ ·) :=
+  Finset.prod_nonneg (fun i _ ↦ pow_nonneg (hc i) (t i))
+
+-- The following three are adapted lemmas from Analysis/Normed/Group/Ultra - we
```
Comment (WilliamCoram) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: If someone could help with what I should do here.
The three lemmas below are duplications of lemmas in Analysis/Normed/Group/Ultra where I replace hypothesis of `NormedGroup` and `IsUltraMetricDist` with just a function on a semiring with a property.

Is it worth creating a file proving these results then refactoring the mentioned file to depend on these?

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 2]
```diff
@@ -120,4 +124,143 @@ lemma gaussNorm_add_le_max (f g : MvPowerSeries σ R) (hc : 0 ≤ c)
     left
     exact gaussNorm_nonneg v c f vNonneg
 
+private lemma foo (hc : 0 ≤ c) (t : σ →₀ ℕ) : 0 ≤ t.prod (c · ^ ·) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: This should be renamed.

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: Do you mean that those are more general? I don't see any problem with a new file, files are cheap!

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 3]
```diff
@@ -120,4 +124,143 @@ lemma gaussNorm_add_le_max (f g : MvPowerSeries σ R) (hc : 0 ≤ c)
...
+      exists_map_finset_prod_le_of_nonempty g ht f Ultra
+
+lemma gaussNorm_mul_le (f g : MvPowerSeries σ R) (hc : 0 ≤ c) (vNonneg : ∀ a, v a ≥ 0)
+    (vMul : ∀ a b, v (a * b) ≤ v a * v b) (vUltra : ∀ a b, v (a + b) ≤ max (v a) (v b))
+    (vZero : v 0 = 0) (hbfd : HasGaussNorm v c f) (hbgd : HasGaussNorm v c g) :
+    gaussNorm v c (f * g) ≤ gaussNorm v c f * gaussNorm v c g := by
+  classical
+  refine Real.iSup_le ?_ ?_
+  · intro t
+    change (v (coeff t (f * g)) * t.prod fun x1 x2 ↦ c x1 ^ x2) ≤
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: Can we avoid the `change` line?

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 4]
```diff
@@ -120,4 +124,143 @@ lemma gaussNorm_add_le_max (f g : MvPowerSeries σ R) (hc : 0 ≤ c)
...
+  · exact mul_nonneg (gaussNorm_nonneg v c f vNonneg) (gaussNorm_nonneg v c g vNonneg)
+
+end Semiring
+
+variable [Ring R]
+
+/-- Predicate for when the gaussNorm is achieved by an index. -/
+def AchievesGaussNorm (i : σ →₀ ℕ) : Prop :=
+  v (coeff i f) * i.prod (c · ^ ·) = gaussNorm v c f
+section absoluteValue
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean:167]:
```suggestion

section absoluteValue
```

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 5]
```diff
@@ -120,4 +124,143 @@ lemma gaussNorm_add_le_max (f g : MvPowerSeries σ R) (hc : 0 ≤ c)
...
+    exact this.trans (mul_le_mul (le_gaussNorm v c f hbfd k.1) (le_gaussNorm v c g hbgd k.2)
+      (mul_nonneg (vNonneg _) (foo c hc k.2)) (gaussNorm_nonneg v c f vNonneg))
+  · exact mul_nonneg (gaussNorm_nonneg v c f vNonneg) (gaussNorm_nonneg v c g vNonneg)
+
+end Semiring
+
+variable [Ring R]
+
+/-- Predicate for when the gaussNorm is achieved by an index. -/
+def AchievesGaussNorm (i : σ →₀ ℕ) : Prop :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: I think adding a `def` here just adds an abstraction layer. Maybe an `abbrev`?

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 6]
```diff
@@ -120,4 +124,143 @@ lemma gaussNorm_add_le_max (f g : MvPowerSeries σ R) (hc : 0 ≤ c)
...
+  wlog hab : f a > f b generalizing a b with H
+  · simpa [add_comm, max_comm] using (H hne.symm ((not_lt.mp hab).lt_of_ne hne))
+  apply le_antisymm (Ultra a b)
+  rcases le_max_iff.mp (Ultra (a + b) (-b)) with h | h
+  · simpa [max_eq_left (le_of_lt hab)] using h
+  · exact absurd h (not_le.mpr (by simpa [Neg b] using hab))
+
+-- this is a version of Fabrizio's apply_sum_eq_of_lt (in Algebra/Order/Ring/IsNonarchimedean)
+-- but in our generality of function f + hypothesis
+lemma apply_sum_eq_of_lt {α β S : Type*} [Semiring S] [LinearOrder S]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: Can you use a `variable` line?

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean (hunk 1 above)
Comment (WilliamCoram) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: They are more general in the sense that we no longer require all the norm properties on the underlying function. If you are happy with a new file I can do that - and then see about refactoring the proofs to depend on these statements.

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: Yes, why not. Thanks!

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean (hunk 3 above)
Comment (WilliamCoram) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: I think this was a hangover from an old version. It can be removed entirely now

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean (hunk 1 above)
Comment (WilliamCoram) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: Exploring it turns out Fabrizio had also already done these in  Algebra/Order/Ring/IsNonarchimedean - there are a few generalisations I am making, but for some reason he did not then simplify the proofs in Analysis/Normed/Group/Ultra. Perhaps there is a reason why

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: cc @fbarroero 

maybe just an import thing

Comment (WilliamCoram) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: As part of the gauss norm files I have been using `f : α → R` + properties under the suggestion of Andrew in the previous PR instead of `[FunLike F α R]`. However, the IsNonarchimedean file works with most of the lemmas in the later case, I can refactor the file, but not sure if this will cause a huge problem downstream.

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: This is surely something we want to do at some point. If you want to try in another PR it would be excellent.

Comment (fbarroero) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: > Exploring it turns out Fabrizio had also already done these in Algebra/Order/Ring/IsNonarchimedean - there are a few generalisations I am making, but for some reason he did not then simplify the proofs in Analysis/Normed/Group/Ultra. Perhaps there is a reason why

If you are referring to #21963, If I remember correctly, I just generalized the definition of `IsNonarchimedean` which used to require the target of the function to be the real numbers. 
I can't remember why I didn't simplify the proofs in Analysis/Normed/Group/Ultra.

In any case, the lemmas you add here could go in Algebra/Order/Ring/IsNonarchimedean.

**Comment by riccardobrasca** [comment]
@WilliamCoram what is the situation with this PR? it is ready for review?

**Comment by WilliamCoram** [comment]
> @WilliamCoram what is the situation with this PR? it is ready for review?

I have made all the suggested changes from your previous review, except the discussion on the lemmas that belong to Algebra/Order/Ring/IsNonarchimedean. We agreed to rework that file which I have started to do, however I got distracted with other things. 

I have two ways I can continue: 
- work on the new PR refactoring the nonarchimedean file and put this as depending on that
- or move the lemmas into the nonarchimedean file now as is (or rather in the general sense that fits the nonarchimedean file) and add a TODO (which I will work on) saying the file needs to be refactored and unified with the new lemmas

Either way, the rest of the file is ready for review (although you may have already looked at it in the previously). I will continue the new PR on the nonarchimedean file next week, let me know what you want to do with this one.

**Comment by riccardobrasca** [comment]
If you want you can just add a TODO and merge this one, I don't think there is nothing urgent here.

**Comment by riccardobrasca** [comment]
@WilliamCoram is the PR ready to go? LGTM!

**Comment by WilliamCoram** [comment]
It is ready to go on my end

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
bors merge
